Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.205987842230002
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]\[C:13]([H:14])([H:15])[H:16],4.8831381573
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],1.68685309621
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.96121397123
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],6.02318855761
[H:1][C:2]([H:3])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.27494273365
[H:12].[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.9794517911
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],0.98043409281
[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.11361333169
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1],8.03719430886
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8][H:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:8][H:9].[O:7],3.70141323509
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-1.99758404671
[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.86725057703
[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-6.18080905551
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],3.4827690464
[H:1][O:2][C:3]([C:4][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.89585956614
[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:3],2.34244405587
[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-0.22234067972
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-5.04610867361
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],4.62097116208
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.65269250132
[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],-1.91963150875
[H:11].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.75917162259
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[O:8][H:9],3.76009538858
[C:1]#[C:2].[C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.81790785642
[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-6.01834677581
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1].[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],4.91824519807
